US07723330B2
Step B: Preparation of N-(3-fluoro-4-(3-(4-(methylamino)piperidin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A round-bottomed flask was charged with tert-butyl 1-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)piperidin-4-yl(methyl)carbamate (98.5 mg, 0.124 mmol) and CF3COOH (5 mL). The reaction mixture was stirred at 80° C. overnight. The solvent was removed and the residue was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to give the product, which was not pure enough. The impure product was further purified by preparative HPLC to afford product (17.3 mg, 24.3%). LRMS (APCI pos) m/e 573 (M+1). 1H NMR (400 MHz, CD3OD δ 11.97 (s, 1H), 8.38 (d, 1H), 8.33 (d, 1H), 8.25 (d, 1H), 8.08 (m, 1H), 7.65 (m, 2H), 7.48 (d, 1H), 7.40 (m, 1H), 7.28 (m, 2H), 6.28 (d, 1H), 4.10 (m, 2H), 3.32 (m, 1H), 3.01 (m, 2H), 2.72 (s, 3H), 2.18 (m, 2H), 2.81 (m, 2H).

reactant | tert-butyl 1-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)piperidin-4-yl(methyl)carbamate | 0.124 mmol, 98.5 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C3=CC=NN(C3=O)C3=CC=C(C=C3)F)F)N3CCC(CC3)N(C(OC(C)(C)C)=O)C)C=C1 | C42H42F2N8O6
reactant | CF3COOH | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(3-fluoro-4-(3-(4-(methylamino)piperidin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 17.3 mg, 24.3% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2N2CCC(CC2)NC)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C29H26F2N8O3
